US05112385
3-(2,5-Dichlorophenoxy)-3-ethoxymethyl-1-n-propylurea (compound No. 174)
To 2.63 g of 3-(2,5-dichlorophenoxy)-1-n-propylurea, were added 4.14 g (20 mmoles) of anhydrous potassium carbonate and then 1.42 g (15 mmoles) of chloromethyl ethyl ether. The mixture was stirred at 50° C. for 1 hour. The reaction mixture was cooled to room temperature, and 300 ml of water was added. The mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The ethyl acetate was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (eluting solvent: ethyl acetate/hexane) to give 0.44 g (yield 14 %) of the desired compound as a pale yellow oil.

reactant | 3-(2,5-dichlorophenoxy)-1-n-propylurea | 2.63 g | ClC1=C(ONC(NCCC)=O)C=C(C=C1)Cl | C10H12Cl2N2O2
reactant | potassium carbonate | 20 mmoles, 4.14 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl ethyl ether | 15 mmoles, 1.42 g | C(C)OCCl | C3H7ClO
solvent | water | 300 ml | O | H2O
product | 3-(2,5-Dichlorophenoxy)-3-ethoxymethyl-1-n-propylurea | 0.44 g, yield 14 % | ClC1=C(ON(C(NCCC)=O)COCC)C=C(C=C1)Cl | C13H18Cl2N2O3
